US08754100B2
Synthesis of 1-amino-6-(3-trifluoromethylphenyl)piperidin-2-one
tert-Butyl [2-oxo-6-(3-trifluoromethylphenyl)piperidin-1-yl]carbamate (210 mg) was dissolved in chloroform (4 mL), followed by addition of trifluoroacetic acid (2 mL). After stirring at room temperature for four hours, concentration under reduced pressure gave the title compound (119 mg). The property values of the compound are as follows.

reactant | tert-Butyl [2-oxo-6-(3-trifluoromethylphenyl)piperidin-1-yl]carbamate | 210 mg | O=C1N(C(CCC1)C1=CC(=CC=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C17H21F3N2O3
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 4 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-amino-6-(3-trifluoromethylphenyl)piperidin-2-one | 119 mg | NN1C(CCCC1C1=CC(=CC=C1)C(F)(F)F)=O | C12H13F3N2O
